US05717124
1.84 g (4.99 mmol.) of (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid was dissolved in 11.5 ml of acetone. To the acetone solution were added 2.56 g (15.0 mmol.) of benzyl bromide and 0.76 g (5.5 mmol,) of potassium carbonate, and the resulting mixture was vigorously stirred for 6 hours at room temperature to give a reaction solution. The reaction solution was mixed with 12 ml of water and then extracted with 12 ml of toluene. The toluene portion was dried over anhydrous magnesium sulfate and concentrated to give an oil. The oil was treated by column chromatography (eluent: ethyl acetate) to give 1.99 g (4.34 mmol.) of benzyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate (optical purity: 99% ee) as an oil (yield: 87%).

reactant | (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid | 4.99 mmol, 1.84 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CC(CP(=O)(OC)OC)=O | C14H29O7PSi
reactant | benzyl bromide | 15.0 mmol, 2.56 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 5.5 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 12 ml | O | H2O
solvent | acetone | 11.5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate | 4.34 mmol, 1.99 g, yield: 87% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OCC1=CC=CC=C1)CC(CP(=O)(OC)OC)=O | C21H35O7PSi
